### PR TITLE
Colimit library

### PR DESCRIPTION
**Pull request by SimonBoulier**
Hi everyone,
This PR add the colimit library as described in https://github.com/HoTT/HoTT/issues/845.
Please feel free to comment.
Here are some debatable points on which I could work if you think they prevent merging:
  * The tactic `funext` (I find it very convenient, but could be removed if you don't like it.)
  * The notation `≃` which is utf8
  * The lack of comments

### CODE REVIEW

**Comment by mikeshulman** [comment]
Looks like travis timed out?

I wouldn't block on funext or the lack of comments, but I still think we should keep the library ASCII as much as possible.  Would you mind doing a search-and-replace?

**Comment by mikeshulman** [comment]
Oh, and thanks!!

**Comment by mikeshulman** [comment]
Thanks, LGTM once Travis can be fixed.  I'm not sure what the problem is; could it be just that the library is now honestly taking too long to compile?  Could you attach a timing report?

**Comment by SimonBoulier** [comment]
Here it is: [time-of-build-both.log ](https://gist.github.com/SimonBoulier/93b3b943758c1630ef807b348a245241)
But it does not explain the 20 min overhead at all ...

File: theories/HIT/Colimits/Coequalizer.v [hunk 1]
```diff
@@ -0,0 +1,93 @@
+Require Import HoTT.Basics HoTT.Types HoTT.HIT.Coeq.
+Require Import Colimits.Diagram Colimits.Colimit.
+Generalizable All Variables.
+
+Context `{Funext}.
```
Comment (JasonGross) [inline theories/HIT/Colimits/Coequalizer.v]: You should wrap this development in a section.  What you are doing here is declaring a `Funext` axiom, which is not what we want.

File: theories/HIT/Colimits/Colimit.v [hunk 2]
```diff
@@ -0,0 +1,346 @@
+Require Import HoTT.Basics HoTT.Types.
+Require Import Colimits.Diagram.
+Local Open Scope path_scope.
+Generalizable All Variables.
+
+Context `{Funext}.
```
Comment (JasonGross) [inline theories/HIT/Colimits/Colimit.v]: This should be inside a section, preferably after the record definition and the `Arguments` commands, which should stay at top-level

File: theories/HIT/Colimits/Colimit.v [hunk 3]
```diff
@@ -0,0 +1,346 @@
...
+    | idpath =>
+      match eq0 in (_ = v0) return C1 = {|q := v0; qq := eq0 # (qq C1) |} with
+      | idpath => 1
+      end
+    end.
+
+  Definition path_cocone {C1 C2: cocone D X}  
+             (eq1 : forall i,  C1 i == C2 i)
+             (eq2 : forall i j g x, qq C1 i j g x @ eq1 i x = eq1 j (D _f g x) @ qq C2 i j g x)
+    : C1 = C2.
```
Comment (JasonGross) [inline theories/HIT/Colimits/Colimit.v]: Style nit: I think we generally add `Proof.` after `Definition` and `Lemma`

File: theories/HIT/Colimits/Colimit.v [hunk 4]
```diff
@@ -0,0 +1,346 @@
...
+    repeat rewrite transport_forall_constant.
+    rewrite transport_paths_FlFr.
+    rewrite concat_pp_p. apply moveR_Vp.
+    rewrite !(ap_apply_lD2
+                (path_forall q r (fun i => path_forall (q i) (r i) (eq1 i)))).
+    rewrite !eisretr. apply eq2.
+  Defined.
+
+  Definition postcompose_cocone (C: cocone D X) {Y: Type}
+    : (X -> Y) -> cocone D Y.
```
Comment (JasonGross) [inline theories/HIT/Colimits/Colimit.v]: Also `Proof.` here

File: theories/HIT/Colimits/Colimit.v [hunk 5]
```diff
@@ -0,0 +1,346 @@
...
+    eapply (cancelL (transport_const (pp i j g x) _)).
+    simple refine ((apD_const (colimit_ind (fun _ => P) C _) (pp i j g x))^ @ _).
+    simple refine (colimit_ind_beta_pp (fun _ => P) C _ i j g x).
+  Defined.
+
+  Definition cocone_colimit {G: graph} (D: diagram G) : cocone D (colimit D)
+    := Build_cocone colim pp.
+  
+  Lemma is_universal_colimit {G: graph} (D: diagram G)
+    : is_universal (cocone_colimit D).
```
Comment (JasonGross) [inline theories/HIT/Colimits/Colimit.v]: Add `Proof.` after `Lemma`

File: theories/HIT/Colimits/Diagram.v [hunk 6]
```diff
@@ -0,0 +1,166 @@
...
+    := fun D1 D2 m => Build_diagram_equiv (diagram_equiv_inv m) _.
+
+  Instance transitive_diagram_equiv : Transitive diagram_equiv.
+  simple refine (fun D1 D2 D3 m1 m2 =>
+                   Build_diagram_equiv (diagram_comp m2 m1) _).
+  simpl. intros i; apply isequiv_compose'. apply m1. apply m2.
+  Defined.
+End Diagram.
+
+Notation "D1 ~d~ D2" := (diagram_equiv D1 D2) (at level 65).
```
Comment (JasonGross) [inline theories/HIT/Colimits/Diagram.v]: Please put `Reserved Notation "D1 ~d~ D2" (at level 65).` in `theories/Basics/Notations.v`, and drop the `(at level 65)` from this line; this will ensure that nothing else we write conflicts with this notation.

File: theories/HIT/Colimits/Colimit_Sigma.v [hunk 7]
```diff
@@ -0,0 +1,100 @@
+Require Import HoTT.Basics HoTT.Types.
+Require Import Colimits.Diagram Colimits.Colimit.
+
+Context `{Funext}.
```
Comment (JasonGross) [inline theories/HIT/Colimits/Colimit_Sigma.v]: This should be in a section

File: theories/HIT/Colimits/Colimit_Sigma.v [hunk 8]
```diff
@@ -0,0 +1,100 @@
...
+
+Section ColimitSigma.
+  Context {G: graph} {Y: Type} (D: Y -> diagram G).
+
+  Definition sigma_diag : diagram G.
+    simple refine (Build_diagram _ _ _).
```
Comment (JasonGross) [inline theories/HIT/Colimits/Colimit_Sigma.v]: Any particular reason to not just give this all at once?  e.g.,
```coq
Definition sigma_diag : diagram G
  := Build_diagram _ (fun i => { y : Y & D y i }) (fun i j g x => (x.1; D x.1 _f g x.2)).
```

File: theories/HIT/Colimits/CommutativeSquares.v [hunk 9]
```diff
@@ -0,0 +1,94 @@
...
+  {A B} {f:A->B} {A' B'} {f':A'->B'} {A'' B''} {f'':A''->B''}
+  {h' : A' -> A''} {g' : B' -> B''} (comm' : f'' o h' == g' o f')
+  {h : A -> A'} {g : B -> B'} (comm : f' o h == g o f)
+: f'' o (h' o h) == (g' o g) o f.
+Proof.
+  intros x. path_via (g' (f' (h x))).
+  apply ap, comm.
+Defined.
+
+(* We show that given any commutative square from [f] to [f'] whose verticals
```
Comment (JasonGross) [inline theories/HIT/Colimits/CommutativeSquares.v]: It'd be nice to have all these comments show up in coqdoc; to make this happen, use `(**` rather than `(*` to open the comments.

File: theories/HIT/Colimits/Diagram.v [hunk 10]
```diff
@@ -0,0 +1,166 @@
+Require Import HoTT.Basics HoTT.Types HoTT.Tactics.
+Require Import Colimits.CommutativeSquares.
+Local Open Scope path_scope.
+
+Context `{Funext}.
```
Comment (JasonGross) [inline theories/HIT/Colimits/Diagram.v]: This should be in a section.

File: theories/HIT/Colimits/Diagram.v [hunk 11]
```diff
@@ -0,0 +1,166 @@
...
+
+Record diagram (G : graph) :=
+  { diagram0 : G -> Type;
+    diagram1 : forall (i j : G), G i j -> (diagram0 i -> diagram0 j) }.
+
+Arguments diagram0 [G] D i : rename.
+Arguments diagram1 [G] D [i j] g x : rename.
+
+Coercion diagram0 : diagram >-> Funclass.
+Notation "D '_f' g" := (diagram1 D g) (at level 10).
```
Comment (JasonGross) [inline theories/HIT/Colimits/Diagram.v]: Please add `Reserved Notation "D '_f' g" (at level 10).` to `theories/Basics/Notations.v`, and drop the `(at level 10)` here.)

File: theories/HIT/Colimits/Diagram.v [hunk 12]
```diff
@@ -0,0 +1,166 @@
...
+    : diagram_comp (diagram_equiv_inv w) w = diagram_idmap D1.
+    destruct w as [[w_obj w_comm] is_eq_w]. simpl in *.
+    set (we i := BuildEquiv _ _ _ (is_eq_w i)).
+    simple refine (path_diagram_map _ _).
+    exact (fun i => eissect (we i)). simpl.
+    intros i j f x. apply (concatR (concat_p1 _)^).
+    apply (comm_square_inverse_is_sect (we i) (we j) _ x).
+  Defined.
+
+  Instance reflexive_diagram_equiv : Reflexive diagram_equiv
```
Comment (JasonGross) [inline theories/HIT/Colimits/Diagram.v]: You presumably want `Global Instance`, because otherwise it ends at the end of the section. You probably actually want `Global Instance reflexive_diagram_equiv : Reflexive diagram_equiv | 1` (or `| 10`), because otherwise this will take precedence over `paths` being `Reflexive`, which is not what we want.

File: theories/HIT/Colimits/Flattening.v [hunk 13]
```diff
@@ -0,0 +1,250 @@
+Require Import HoTT.Basics HoTT.Types.
+Require Import Colimits.Diagram Colimits.Colimit.
+Local Open Scope path_scope.
+
+Context `{Funext}.
```
Comment (JasonGross) [inline theories/HIT/Colimits/Flattening.v]: This should be in a section

File: theories/HIT/Colimits/Diagram.v [hunk 14]
```diff
@@ -0,0 +1,166 @@
...
+    := fun D => Build_diagram_equiv (diagram_idmap D) _.
+
+  Instance symmetric_diagram_equiv : Symmetric diagram_equiv
```
Comment (JasonGross) [inline theories/HIT/Colimits/Diagram.v]: `Global Instance symmetric_diagram_equiv : Symmetric diagram_equiv | 1`

File: theories/HIT/Colimits/Diagram.v [hunk 15]
```diff
@@ -0,0 +1,166 @@
...
+    := fun D1 D2 m => Build_diagram_equiv (diagram_equiv_inv m) _.
+
+  Instance transitive_diagram_equiv : Transitive diagram_equiv.
```
Comment (JasonGross) [inline theories/HIT/Colimits/Diagram.v]: `Global Instance transitive_diagram_equiv : Transitive diagram_equiv | 1.`

File: theories/HIT/Colimits/Flattening.v [hunk 16]
```diff
@@ -0,0 +1,250 @@
...
+    serapply Build_is_colimit.
+    2: apply is_universal_cocone_E'.
+  Defined.
+End Flattening.
+
+
+
+    
+Section POCase.
+  Require Import Colimits.Pushout.
```
Comment (JasonGross) [inline theories/HIT/Colimits/Flattening.v]: `Require` in a section is unsupported by Coq, I think, and bad practice in any case; please move this to top-level.  (If you want to `Require` it outside the section and only `Import` it inside the section, that's fine.)

File: theories/HIT/Colimits/Pushout.v [hunk 17]
```diff
@@ -0,0 +1,190 @@
+Require Import HoTT.Basics HoTT.Types.Bool HoTT.Types.Paths.
+Require Import Colimits.Diagram Colimits.Colimit.
+Local Open Scope path_scope.
+
+Context `{Funext}.
```
Comment (JasonGross) [inline theories/HIT/Colimits/Pushout.v]: This should be in a section

File: theories/HIT/Colimits/Pushout.v [hunk 18]
```diff
@@ -0,0 +1,190 @@
...
+End PO.
+
+
+  (* ******************** *)
+  (* ***** pushout ****** *)
+  (* ******************** *)
+  (* We show here that the pushout defined as a colimit *)
+  (* is equivalent to the pushout defined as a primitive HIT. *)
+Section is_PO_pushout.
+  Require Import Types.Sum HIT.Pushout.
```
Comment (JasonGross) [inline theories/HIT/Colimits/Pushout.v]: `Require` inside `Section` is unsupported, I think

File: theories/Types/Paths.v [hunk 19]
```diff
@@ -396,23 +396,59 @@ Proof.
...
 : IsEquiv (moveR_transport_p P p u v).
 Proof.
-  destruct p. apply isequiv_idmap.
+  serapply isequiv_adjointify.
+  apply moveL_transport_V.
+  intro q; apply moveR_moveL_transport_V.
+  intro q; apply moveL_moveR_transport_p.
 Defined.
-
+
```
Comment (JasonGross) [inline theories/Types/Paths.v]: Nit: any reason for this whitespace change?

File: theories/Types/Paths.v [hunk 20]
```diff
@@ -424,26 +460,34 @@ Global Instance isequiv_moveL_transport_V {A : Type} (P : A -> Type) {x y : A}
...
+  intro q; apply moveL_moveR_transport_p.
+  intro q; apply moveR_moveL_transport_V.
 Defined.
 
 Definition equiv_moveL_transport_V {A : Type} (P : A -> Type) {x y : A}
   (p : x = y) (u : P x) (v : P y)
 : transport P p u = v <~> u = transport P p^ v
 := BuildEquiv _ _ (moveL_transport_V P p u v) _.
 
+
```
Comment (JasonGross) [inline theories/Types/Paths.v]: Nit: why the extra newline?

File: theories/Types/Paths.v [hunk 21]
```diff
@@ -424,26 +460,34 @@ Global Instance isequiv_moveL_transport_V {A : Type} (P : A -> Type) {x y : A}
...
+  intro q; apply moveL_moveR_transport_V.
+  intro q; apply moveR_moveL_transport_p.
 Defined.
 
 Definition equiv_moveL_transport_p {A : Type} (P : A -> Type) {x y : A}
   (p : y = x) (u : P x) (v : P y)
 : transport P p^ u = v <~> u = transport P p v
 := BuildEquiv _ _ (moveL_transport_p P p u v) _.
 
+
```
Comment (JasonGross) [inline theories/Types/Paths.v]: Nit: Why the extra newline?

File: theories/Types/Sigma.v [hunk 22]
```diff
@@ -282,6 +282,32 @@ Proof.
...
+
+Definition ap_path_sigma {A B} (P : A -> Type) (F : forall a : A, P a -> B)
+           {x x' : A} {y : P x} {y' : P x'} (p : x = x') (q : p # y = y')
+  : ap (fun w => F w.1 w.2) (path_sigma' P p q)
+    = ap _ (moveL_transport_V _ p _ _ q)
+         @ (transport_arrow_toconst _ _ _)^ @ ap10 (apD F p) y'.
+Proof.
+  destruct p, q; reflexivity.
+Defined.
+(* Remark: this is also equals to: *)
```
Comment (JasonGross) [inline theories/Types/Sigma.v]: Nit: "equal to" not "equals to"

**Comment by JasonGross** [comment]
Regarding travis: [the log](https://s3.amazonaws.com/archive.travis-ci.org/jobs/194461669/log.txt) suggests that the issue is proviola.  Comparing the occurrences of "Travis keep-alive spew" to a [normal build](https://s3.amazonaws.com/archive.travis-ci.org/jobs/185381412/log.txt) suggests that it's fine all the way up through running `XSLTPROC proviola-xml/HoTT.HIT.Suspension.xml`, and then something whacky happens where it doesn't finish when trying to run that command....

File: theories/HIT/Colimits/Colimit.v (hunk 3 above)
Comment (andrejbauer) [inline theories/HIT/Colimits/Colimit.v]: Seconded.

File: theories/Basics/Overture.v [hunk 23]
```diff
@@ -775,6 +775,22 @@ Ltac by_extensionality x :=
     simpl; auto with path_hints
   end.
 
+
```
Comment (andrejbauer) [inline theories/Basics/Overture.v]: These tactics should be commented so that people can use them even if they don't know how to write tactics themselves.

File: theories/HIT/Colimits/Coequalizer.v [hunk 24]
```diff
@@ -0,0 +1,93 @@
...
+  Definition is_coequalizer (f g : B -> A)
+    := is_colimit (coequalizer_diag f g).
+  Definition Coequalizer (f g : B -> A)
+    := colimit (coequalizer_diag f g).
+
+
+
+  (* ***************** *)
+  (* ***** Coeq ****** *)
+  (* ***************** *)
```
Comment (andrejbauer) [inline theories/HIT/Colimits/Coequalizer.v]: What is the purpose of these comments? If you are trying to visually serparate parts of the development, please use the coqdoc sectioning mechanism so that the generated documentation will look reasonable.

File: theories/HIT/Colimits/Colimit.v [hunk 25]
```diff
@@ -0,0 +1,346 @@
...
+   qq : forall (i j: G) (g: G i j) (x: D i), q j (D _f g x) = q i x}.
+
+Arguments Build_cocone {G D X} q qq.
+Arguments q {G D X} C i x : rename.
+Arguments qq {G D X} C i j g x : rename.
+
+Coercion q : cocone >-> Funclass.
+
+
+(** *** Definition of colimits *** *)
```
Comment (andrejbauer) [inline theories/HIT/Colimits/Colimit.v]: Please use [coqdoc](https://coq.inria.fr/refman/Reference-Manual017.html#coqdoc) sectioning instead. The documentation says: "Sections are introduced by 1 to 4 leading stars (i.e. at the beginning of the line) followed by a space. One star is a section, two stars a sub-section, etc. The section title is given on the remaining of the line." So this should be something like:

    (** ** Definitions of colimits *)

File: theories/HIT/Colimits/Colimit.v [hunk 26]
```diff
@@ -0,0 +1,346 @@
...
+Arguments is_colimit_H {G D Q} H X : rename.
+  
+Definition postcompose_cocone_inv `{D: diagram G} `(H: is_colimit D Q)
+           `(C: cocone D X) : Q -> X
+  := @equiv_inv _ _ _ (is_colimit_H H X) C.
+
+
+
+(** *** Existence of colimits *** *)
+(** The existence is given by an HIT. *)
```
Comment (andrejbauer) [inline theories/HIT/Colimits/Colimit.v]: See above, please use coqdoc sectioning.

File: theories/HIT/Colimits/Colimit.v [hunk 27]
```diff
@@ -0,0 +1,346 @@
...
+
+Module Export colimit_HIT.
+  Private Inductive colimit {G: graph} (D: diagram G) : Type:=
+  | colim : forall i, D i -> colimit D.
+
+  Arguments colim {G D} i x.
+  
+  Axiom pp : forall {G: graph} {D: diagram G} (i j: G) (f : G i j) (x: D i),
```
Comment (andrejbauer) [inline theories/HIT/Colimits/Colimit.v]: Is `pp` really the best possible name here?

File: theories/HIT/Colimits/Colimit.v [hunk 28]
```diff
@@ -0,0 +1,346 @@
...
+  Definition postcompose_cocone_comp {D: diagram G}
+             `(f: X -> Y) `(g: Y -> Z) (C: cocone D X)
+    : postcompose_cocone C (g o f)
+      = postcompose_cocone (postcompose_cocone C f) g.
+    simple refine (path_cocone _ _).
+    intros i x; reflexivity.
+    intros i j h x; simpl; hott_simpl. apply ap_compose.
+  Defined.
+
+  (* precompose *)
```
Comment (andrejbauer) [inline theories/HIT/Colimits/Colimit.v]: I would like to request lots of good comments, but I'll already be happy with some good comments that help the reader understand what is what. This particular one is not of that kind :-)

File: theories/HIT/Colimits/Colimit.v [hunk 29]
```diff
@@ -0,0 +1,346 @@
...
+    : forall i, (q HQ2 i) o (m i)
+           == (functoriality_colimit m HQ1 HQ2) o (q HQ1 i).
+    intros i x.
+    change (precompose_cocone m HQ2 i x =
+            postcompose_cocone HQ1
+              (postcompose_cocone_inv HQ1 (precompose_cocone m HQ2)) i x). 
+    f_ap. exact (eisretr (postcompose_cocone HQ1) _)^.
+  Defined.
+
+  (** Here we prove than two equivalent diagrams have equivalent colimits. *)
```
Comment (andrejbauer) [inline theories/HIT/Colimits/Colimit.v]: All we ever do in Coq files is proving, no need to emphasize that. So I would say simply "Two equivalent diagrams have equivalent colimits."

**Comment by andrejbauer** [comment]
Many thanks for your contribution. I would suggest (see also my comments in the code):

1. Use coqdoc sectioning to delimit parts of development, rather than ad-hoc visually pleasing comments.
2. Always start proofs with `Proof.`
3. Please, please, put in some comments that will help people understand what is in the files. Each section or file should have a short overview of its contents, and non-obvious parts of the code should have comments. If the structure of a proof is not obvious, point that out in a comment and explain what it is.
4. Whatever @JasonGross says.

**Comment by spitters** [comment]
I did not have the time to look at this very carefully. 
However, generally, this looks very nice.
Thanks @SimonBoulier !

File: theories/HIT/Colimits/Colimit_Prod.v [hunk 30]
```diff
@@ -1,34 +1,40 @@
...
-  Definition diagram_map_prod_sigma
-    : diagram_map (sigma_diag (fun _ : A => D)) prod_diag.
-    simple refine (Build_diagram_map _ _).
-    exact (fun i x => (x.1, x.2)).
-    reflexivity.
+  Definition diagram_equiv_prod_sigma
+    : sigma_diag (fun _ : A => D) ~d~ prod_diag.
+  Proof.
+    unshelve econstructor.
+    - serapply Build_diagram_map; cbn.
```
Comment (spitters) [inline theories/HIT/Colimits/Colimit_Prod.v]: is `serapply supported already. I do not find it here:
https://coq.inria.fr/refman/tactic-index.html

**Comment by spitters** [comment]
I had a quick look. It looks like you've made the requested changes. Thanks!

File: theories/HIT/Colimits/Colimit_Prod.v (hunk 30 above)
Comment (SimonBoulier) [inline theories/HIT/Colimits/Colimit_Prod.v]: It was added in the HoTT library: PR #829.
I don't think than it is planed that Coq have such a tactic. Do you have heard something about that?

**Comment by SimonBoulier** [comment]
Yes! I only hope there is not too many spelling errors in the comments ...

**Comment by spitters** [comment]
Thanks. Fine with me.

**Comment by SimonBoulier** [comment]
Regarding the time out bug. I can reproduce it on my computer: `make -j4 proviola` never ends and stay stuck on `XSLTPROC proviola-xml/HoTT.HIT.Suspension.xml`
And indeed, there is a problem with this file: the nested comment just before [loop_susp_unit](http://hott.github.io/HoTT/proviola-html/HoTT.HIT.Suspension.html#loop_susp_unit) is badly handled and make the whole file corrupted. I propose #852.

**Comment by SimonBoulier** [comment]
The problem for proviola was with `make proviola-html/HoTT.HIT.Colimits.Flattening.html` which never ends.
I don't understand why but changing the `Let`s in `Definition`s at the end of `Flattening.v` solve the problem (maybe the goals are too long?).
However there are still some errors with the end of this file: the goals generated by proviola are not exactly the same as those I see on Coq.

Anyway, it' ok for me for merging.

**Comment by andrejbauer** [comment]
If I understand correctly, Travis is now happy? Excellent. Many thanks for the PR. That's one pair of eyes from me.

**Comment by spitters** [comment]
I'll let @JasonGross pull this, as I am not sure of the proviola part. It looks good from my perspective.

File: theories/HIT/Colimits/Flattening.v [hunk 31]
```diff
@@ -0,0 +1,271 @@
...
+(** A good intuition is given by the pushout's case (see above). *)
+
+Section Flattening.
+  (** ** Equifibered diagrams *)
+
+  Context `{fs : Funext} {G : graph} (D : diagram G).
+
+  (** We define here the graph ∫D, also denoted G·D *)
+
+  Definition integral : graph.
```
Comment (JasonGross) [inline theories/HIT/Colimits/Flattening.v]: Add `Proof.` after `Definition`

File: theories/HIT/Colimits/Flattening.v [hunk 32]
```diff
@@ -0,0 +1,271 @@
...
+  Definition dep_diagram := diagram integral.
+
+  Context (E : dep_diagram).
+
+  Let E_f {i j : G} (g : G i j) (x : D i) : E (i; x) -> E (j; (D _f g) x)
+      := @diagram1 _ E (i; x) (j; D _f g x) (g; 1).
+
+  (** Given a dependent diagram, we can recover a diagram over G by considering the Σ types. *)
+
+  Definition sigma_diagram : diagram G.
```
Comment (JasonGross) [inline theories/HIT/Colimits/Flattening.v]: Add `Proof.` after `Definition`

File: theories/HIT/Colimits/Flattening.v [hunk 33]
```diff
@@ -0,0 +1,271 @@
...
+
+  (** A dependent diagram is said equifibered if all its fibers are equivalences. *)
+
+  Definition equifibered := forall i j (g : G i j) (x : D i), IsEquiv (E_f g x).
+
+  Context (H : equifibered) `{Univalence}.
+
+  (** Now, given an equifibered diagram and using univalence, one can define a type family [E' : colimit D -> Type] by recusrion on the colimit. *)
+
+  Definition E' : colimit D -> Type.
```
Comment (JasonGross) [inline theories/HIT/Colimits/Flattening.v]: Add `Proof.` after `Definition`

Comment (JasonGross) [inline theories/HIT/Colimits/Flattening.v]: With such a short name as `E'`, you should make this `Local Definition` so that the unqualified name never gets exported.  (You may also want `Local Definition` for the other things that were `Let `s; that's up to you.)

File: theories/HIT/Colimits/Flattening.v [hunk 34]
```diff
@@ -0,0 +1,271 @@
...
+
+(** We instanciate the flattening lemma in the case of the pushout. *)
+
+Section POCase.
+  Context `{Univalence} {A B C} {f: A -> B} {g: A -> C}.
+
+  Context (A0 : A -> Type) (B0 : B -> Type) (C0 : C -> Type)
+          (f0 : forall x, A0 x <~> B0 (f x)) (g0 : forall x, A0 x <~> C0 (g x)).
+
+  Definition P : PO f g -> Type.
```
Comment (JasonGross) [inline theories/HIT/Colimits/Flattening.v]: Add `Proof.` after `Definition`

Comment (JasonGross) [inline theories/HIT/Colimits/Flattening.v]: Also, `Local Definition ` here, or pick a more descriptive name.

File: theories/HIT/Colimits/Flattening.v [hunk 35]
```diff
@@ -0,0 +1,271 @@
...
+    simple refine (PO_rec Type B0 C0 _).
+    cbn; intro x. eapply path_universe_uncurried.
+    etransitivity. symmetry. apply f0. apply g0.
+  Defined.
+
+  Definition E : dep_diagram (span f g).
```
Comment (JasonGross) [inline theories/HIT/Colimits/Flattening.v]: Add `Proof.` after `Definition`, and make this `Local Definition ` or pick a more descriptive name.

File: theories/HIT/Colimits/Flattening.v [hunk 36]
```diff
@@ -0,0 +1,271 @@
...
+    simple refine (Build_diagram _ _ _); cbn.
+      intros [[] x]; revert x. exact A0. destruct b; assumption.
+      intros [[] x] [[] y] []; cbn; intros [].
+      destruct b; intro p. exact (fun y => p # (f0 x y)).
+      exact (fun y => p # (g0 x y)).
+  Defined.
+
+  Definition HE : equifibered _ E.
```
Comment (JasonGross) [inline theories/HIT/Colimits/Flattening.v]: Add `Proof.` after `Definition`, and make this `Local Definition `, or pick a more descriptive name.

**Comment by SimonBoulier** [comment]
Thanks for your attention @JasonGross, I missed this file (for the Proof.). And I didn't know about `Local Definition`, it' nice.

**Comment by SimonBoulier** [comment]
Anything blocking?
